US05665768
[D] 3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopentenone oxime
To a stirred solution of 3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopentenone (5.9 g; 21.5 mM) in EtOH-pyridine (50 ml-12 ml) was added hydroxylamine hydrochloride (2.24 g; 32.3 mM) at room temperature. After stirring overnight, solvent was removed. To the residue was added 0.5N aqueous HCl (80 ml), and the whole was extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with water (70 ml), brine (70 ml), dried over MgSO4, and concentrated in vacuo to give 6 g (yield 97%) of crude subtitle compound as a brown oil, which was used without further purification.

reactant | 3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopentenone | 21.5 mM, 5.9 g | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)=O | C15H11FO2S
reactant | hydroxylamine hydrochloride | 32.3 mM, 2.24 g | Cl.NO
solvent | EtOH pyridine | 50 ml-12 ml | CCO.N1=CC=CC=C1
product | 3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopentenone oxime | 6 g, yield 97% | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)=NO | C15H12FNO2S
